US04344954
A mixture consisting of 14.9 g. of p-dimethylaminobenzaldehyde, 12.4 g. of m-fluorobenzaldehyde, 6 g. of potassium cyanide, and 100 ml. of 65% ethanol is reacted according to the procedure of Example 20, 12.8 g. of 4-dimethylamino-3'-fluorobenzoin being obtained; m.p. 147°-149° C. An 8.2 g. portion of this benzoin is converted to its methanesulfonate ester, by the procedure of Example 20, in 9.1 g. yield, m.p. 106°-109° C. A mixture of 2.6 g. of the methanesulfonate ester, 0.91 g. of hexahydro-2H-1,3-diazepin-2-thione, and 70 ml. of acetone is left at room temperature for three days, precipitating the title compound in 2.7 g. yield, m.p. 180°-182° C.

reactant | p-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | m-fluorobenzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | potassium cyanide | [C-]#N.[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-dimethylamino-3'-fluorobenzoin | CN(C1=CC=C(C=C1)C(=O)C(O)C1=CC(=CC=C1)F)C | C16H16FNO2
